US08067408B2
N-{[3-Bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (0.564 g, 1.25 mmol), {[3-bromo-4-(methyloxy)phenyl]methyl}amine (0.27 g, 1.25 mmol, HBTU (0.474 g, 1.25 mmol), and TEA (0.348 mL, 2.5 mmol) were combined in CH2Cl2 (30 mL). The mixture was stirred overnight at room temperature. The solvents were concentrated, and the residue taken up in EtOAc, washed with 1N NaOH, brine, dried and concentrated to give the crude product which was purified using CombiFlash on a 40 g column eluted with 0-10% MeOH/CH2Cl2 to afford the title compound as a white solid. LC-MS m/z 649.5 (M+H)+, 1.76 min (ret time); mp 130-132° C.; analytical HPLC shows 100% purity, (ret time 12.776 min).

reactant | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 1.25 mmol, 0.564 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | {[3-bromo-4-(methyloxy)phenyl]methyl}amine | BrC=1C=C(C=CC1OC)CN | C8H10BrNO
reactant | HBTU | 1.25 mmol, 0.474 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-{[3-Bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | BrC=1C=C(C=CC1OC)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O4
